US08034812B2
Production of 5-methyl-1,3-thiazole-4-carboxylic acid
To a solution of methyl 5-methyl-1,3-thiazole-4-carboxylate (1.17 g, 7.4 mmol) in methanol (15 mL) was added 8N aqueous sodium hydroxide solution (2.00 mL), and the mixture was stirred at room temperature for 18 hr. 6N Hydrochloric acid (2.67 mL) was added to the mixture, and the mixture was concentrated under reduced pressure. Water was added to the residue, and the precipitate was collected by filtration, and washed with water. The precipitate was suspended in a mixed solvent of ethyl acetate (9 mL) and ethanol (1 mL), and the mixture was stirred at 80° C. for 3 min. After allowing to cool to room temperature, the precipitate was collected by filtration, washed with ethyl acetate, and dried under reduced pressure to give the title compound (531 mg, yield 50%) as a pale-yellow solid.

reactant | methyl 5-methyl-1,3-thiazole-4-carboxylate | 7.4 mmol, 1.17 g | CC1=C(N=CS1)C(=O)OC | C6H7NO2S
reactant | sodium hydroxide | 8N, 2.00 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 6N, 2.67 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 5-methyl-1,3-thiazole-4-carboxylic acid | 531 mg, yield 50% | CC1=C(N=CS1)C(=O)O | C5H5NO2S
